US09120805B2
599 mg (1.41 mmol) Dess-Martin periodinane is added to a solution of 140 mg (0.471 mmol) 6-(4-tert-butyl-phenyl)-2-hydroxymethyl-5H-pyrazolo[1,5-a]pyrazin-4-one in 5 ml dichloromethane and 1 ml DMF. The reaction mixture is stirred at ambient temperature for 18 hours. The reaction mixture is filtered and the filtrate is washed with saturated sodium thiosulfate solution and with saturated sodium hydrogen carbonate solution. The organic phase is dried over sodium sulfate and evaporated. The residue is triturated with tert-butylmethylether, the solid is filtered off and dried under vacuum to give 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carbaldehyde as light yellow crystals; HPLC/MS: 1.93 (C), [M+H] 296.

reactant | Dess-Martin periodinane | 1.41 mmol, 599 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 6-(4-tert-butyl-phenyl)-2-hydroxymethyl-5H-pyrazolo[1,5-a]pyrazin-4-one | 0.471 mmol, 140 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(C=2N(C1)N=C(C2)CO)=O | C17H19N3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carbaldehyde | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(C=2N(C1)N=C(C2)C=O)=O | C17H17N3O2
